US07842710B2
A solution of 34.5 g (0.16 mols) 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carbonyl chloride in 50 ml tetrahydrofuran is added dropwise at room temperature to a solution of 20.0 g (0.16 mols) 2-aminophenylmethanol and 36 ml (0.26 mols) triethylamine in 250 ml tetrahydrofuran. After the exotherm has subsided, the reaction is refluxed for 6 hours, then stirred at room temperature for another 48 hours. The reaction mixture is added to about 250 ml water, extracted with ethyl acetate, washed with 2 N hydrochloric acid gewaschen, dried over magnesium sulfate and concentrated tinder vacuum. Column chromatography (gradient cyclohexane/ethyl acetate) yielded 33.8 g (69% theoretical yield) of N-[2-(hydroxymethyl)phenyl]-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxamide [logP (pH 2.3)=1.55].

reactant | 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carbonyl chloride | 0.16 mols, 34.5 g | CN1N=C(C(=C1)C(=O)Cl)C(F)(F)F | C6H4ClF3N2O
reactant | 2-aminophenylmethanol | 0.16 mols, 20.0 g | NC1=C(C=CC=C1)CO | C7H9NO
reactant | triethylamine | 0.26 mols, 36 ml | C(C)N(CC)CC | C6H15N
reactant | water | about 250 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | N-[2-(hydroxymethyl)phenyl]-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxamide | 33.8 g, pH 2.3, 69% | OCC1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C(F)(F)F | C13H12F3N3O2
